US08106055B2
N-(3-Benzyloxypropoxymethyl)-2,4,6-trichloro-N-methylbenzenesulfonamide (Intermediate F)
A soln. of 3-benzyloxy-1-propanol (4.08 g, 3.90 ml, 24.5 mmol) and tetra-n-butylammonium hydrogen sulfate (1.78 g, 5.25 mmol) in toluene (100 ml) was cooled in an ice-bath and 35% strength sodium hydroxide solution (49.0 g, 140 ml, 1.22 mol) was added. A soln. of 2,4,6-trichloro-N-chloromethyl-N-methylbenzenesulfonamide (7.10 g, 22 mmol) in MC (60 ml) was then slowly added dropwise. The mixture was then stirred at RT for 15-20 h. Thereafter, the phases were separated and the organic phase was washed neutral with water (6×50 ml) and saturated sodium chloride solution (2×40 ml), dried with Na2SO4 and concentrated i. vac. The crude product was purified by means of flash chromatography with cyclohexane/EtOAc (9:1).

reactant | 3-benzyloxy-1-propanol | 24.5 mmol, 3.90 ml, 4.08 g | C(C1=CC=CC=C1)OCCCO | C10H14O2
reactant | sodium hydroxide | 1.22 mol, 140 ml, 49.0 g | [OH-].[Na+]
reactant | 2,4,6-trichloro-N-chloromethyl-N-methylbenzenesulfonamide | 22 mmol, 7.10 g | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)N(C)CCl | C8H7Cl4NO2S
catalyst | tetra-n-butylammonium hydrogen sulfate | 5.25 mmol, 1.78 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Benzyloxypropoxymethyl)-2,4,6-trichloro-N-methylbenzenesulfonamide | C(C1=CC=CC=C1)OCCCOCN(S(=O)(=O)C1=C(C=C(C=C1Cl)Cl)Cl)C | C18H20Cl3NO4S
